US09168259B2
A mixture of 12.0 g (51.7 mmol) 6-chloro-2-ethylsulfanyl-4-methyl-pyridine-3-carboxylic acid and 33.7 g (387 mmol) morpholine was heated to 105° C. for 5 d. After cooling to RT a 2M aq. NaOH sol. (200 ml) was added, followed by washing with ether (3×200 ml). The aqueous layer was then acidified with a 2M aq. HCl to pH 5 and extracted with EtOAc. In the same manner pH 4 was adjusted followed by extraction with EtOAc. The combined EtOAc extracts were dried over MgSO4 and concentrated in vacuo. Crystallisation (DCM/hexane) of the residue yielded 7.2 g (25.3 mmol, 49%) 2-ethylsulfanyl-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid.

reactant | 6-chloro-2-ethylsulfanyl-4-methyl-pyridine-3-carboxylic acid | 51.7 mmol, 12.0 g | ClC1=CC(=C(C(=N1)SCC)C(=O)O)C | C9H10ClNO2S
reactant | morpholine | 387 mmol, 33.7 g | N1CCOCC1 | C4H9NO
solvent | NaOH | 2M, 200 ml | [OH-].[Na+]
product | 2-ethylsulfanyl-4-methyl-6-morpholin-4-yl-pyridine-3-carboxylic acid | 25.3 mmol, 7.2 g, 49% | C(C)SC1=NC(=CC(=C1C(=O)O)C)N1CCOCC1 | C13H18N2O3S
